US04983596
To a solution of (2S,4S)-4-acetylthio-2-(2-fluoroethyloxymethyl)-1-(4-nitrobenzyloxycarbonyl)pyrrolidine (1.70 g) in methanol (35 ml) was dropwise added a 28% solution (1.2 ml) of sodium methoxide in methanol at -10°~-5° C. in a nitrogen stream, followed by stirring at the same temperature for 1 hour. To the mixture was added acetic acid (0.4 ml) at -10°~-5° C. The mixture was concentrated under reduced pressure to give a residue. The residue was poured into a mixture of water (50 ml) and ethyl acetate (50 ml). The organic layer was separated, dried over magnesium sulfate and concentrated under reduced pressure to give a syrup. The syrup was subjected to a column chromatography on silica gel (25 g) and eluted with chloroform to give (2S,4S)-2-(2-fluoroethyloxymethyl)-4-mercapto-1-(4-nitrobenzyloxycarbonyl)pyrrolidine (0.91 g).

reactant | (2S,4S)-4-acetylthio-2-(2-fluoroethyloxymethyl)-1-(4-nitrobenzyloxycarbonyl)pyrrolidine | 1.70 g | C(C)(=O)S[C@H]1C[C@H](N(C1)C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])COCCF | C17H21FN2O6S
reactant | sodium methoxide | C[O-].[Na+]
reactant | acetic acid | 0.4 ml | C(C)(=O)O | C2H4O2
reactant | water | 50 ml | O | H2O
solvent | methanol | 35 ml | CO | CH4O
solvent | ethyl acetate | 50 ml | C(C)(=O)OCC | C4H8O2
product | (2S,4S)-2-(2-fluoroethyloxymethyl)-4-mercapto-1-(4-nitrobenzyloxycarbonyl)pyrrolidine | 0.91 g | FCCOC[C@H]1N(C[C@H](C1)S)C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-] | C15H19FN2O5S
